US04048182
25.7 g. of 5-amino-6-ethylamino-4-chloro-2-methylpyridine-3-carboxylic acid, ethyl ester (0.1 mol.) is refluxed for 12 hours with 100 ml. of orthoformic acid triethyl ester with stirring. The excess ester is removed in vacuo and the oily residue distilled to obtain 7-chloro-3-ethyl-5-methyl-3H-imidazo[4,5-b]pyridine-6-carboxylic acid, ethyl ester, b.p. 195°/0.01. Yield 23 g. (86%).

reactant | 5-amino-6-ethylamino-4-chloro-2-methylpyridine-3-carboxylic acid, ethyl ester | 0.1 mol | NC=1C(=C(C(=NC1NCC)C)C(=O)OCC)Cl | C11H16ClN3O2
reactant | orthoformic acid triethyl ester | C(C)OC(OCC)OCC | C7H16O3
product | 7-chloro-3-ethyl-5-methyl-3H-imidazo[4,5-b]pyridine-6-carboxylic acid, ethyl ester | ClC1=C2C(=NC(=C1C(=O)OCC)C)N(C=N2)CC | C12H14ClN3O2
